US04554275
A mixture of 3.24 grams of 2-methoxy-3-naphthonitrile, 2.23 grams of cyanoguanidine and 0.24 gram of KOH was dissolved in 30 ml of methyl cellosolve with heating and the mixture was heated to reflux for 6.5 hours. After the reaction was completed, the reaction solution was was poured into water, the crystals separated out were taken by filtration, and were recrystallized from ethyl alcohol to give 2,4-diamino-6-(2-methoxy-3-naphthyl)-s-triazine, colourless needles, melting point 243° to 244° C., the yield being 4.12 grams.

reactant | 2-methoxy-3-naphthonitrile | 3.24 grams | COC1=CC2=CC=CC=C2C=C1C#N | C12H9NO
reactant | cyanoguanidine | 2.23 grams | C(#N)NC(=N)N | C2H4N4
reactant | KOH | 0.24 gram | [OH-].[K+]
reactant | water | O | H2O
solvent | methyl cellosolve | 30 ml | COCCO | C3H8O2
product | 2,4-diamino-6-(2-methoxy-3-naphthyl)-s-triazine | NC1=NC(=NC(=N1)N)C=1C(=CC2=CC=CC=C2C1)OC | C14H13N5O
